US05164397
a) 2-Chloropyrimidine-4-carboxamide
338 g of 98% strength formic acid are introduced into a 1--1 round bottom flask fitted with magnetic stirring and containing 131.9 g (946 mmol) of 2-chloropyrimidine-4-carbonitrile, and a stream of gaseous hydrochloric acid is passed through slowly for 1 h 30 min. The mixture is allowed to stand overnight, the solid is isolated on sintered glass and is then purified by recrystallisation with filtration while hot, from a mixture of nitromethane and ethyl acetate. In this way, 107.03 g of grey solid are isolated as three crops, after drying under vacuum and with heating. Melting point: 152.5°-154° C.

reactant | 2-chloropyrimidine-4-carbonitrile | 946 mmol, 131.9 g | ClC1=NC=CC(=N1)C#N | C5H2ClN3
reactant | hydrochloric acid | Cl | ClH
reactant | formic acid | C(=O)O | CH2O2
product | 2-Chloropyrimidine-4-carboxamide | 107.03 g | ClC1=NC=CC(=N1)C(=O)N | C5H4ClN3O
